US07943609B2
A conical microwave vial was charged with a solution of (4S)-9-chloro-4,6,7-trimethyl-3,4-dihydro-1H-pyrido[3′,4′:4,5]imidazo[2,1-c][1,4]oxazine (270 mg, 1.07 mmol) dissolved in 3.5 mL of 2,2,2-trifluoroethanol. 4-Methoxybenzylamine (1.4 mL, 10.7 mmol) and pyridine hydrochloride (620 mg, 5.35 mmol) were added and the vial was sealed. The solution was heated in an Emrys Optimizer microwave (Personal Chemistry) at 160° C. for 120 minutes. The solvent was removed under reduced pressure, and the resulting residue was partitioned between 20 mL of CH2Cl2 and 20 mL of 10% aqueous Na2CO3. The layers were separated, and the organic portion was washed with 10% aqueous Na2CO3 solution and brine, dried over Na2SO4, filtered and concentrated under reduced pressures to give a crude oil. Chromatography (SiO2, 0-20% CMA/CHCl3) afforded (4S)—N-(4-methoxybenzyl)-4,6,7-trimethyl-3,4-dihydro-1H-pyrido[3′,4′:4,5]imidazo[2,1-c][1,4]oxazin-9-amine (350 mg) as an orange syrup.

reactant | (4S)-9-chloro-4,6,7-trimethyl-3,4-dihydro-1H-pyrido[3′,4′:4,5]imidazo[2,1-c][1,4]oxazine | 1.07 mmol, 270 mg | ClC1=NC(=C(C2=C1N=C1COC[C@@H](N12)C)C)C | C12H14ClN3O
reactant | 4-Methoxybenzylamine | 10.7 mmol, 1.4 mL | COC1=CC=C(CN)C=C1 | C8H11NO
reactant | pyridine hydrochloride | 5.35 mmol, 620 mg | Cl.N1=CC=CC=C1
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | 2,2,2-trifluoroethanol | 3.5 mL | FC(CO)(F)F | C2H3F3O
product | (4S)—N-(4-methoxybenzyl)-4,6,7-trimethyl-3,4-dihydro-1H-pyrido[3′,4′:4,5]imidazo[2,1-c][1,4]oxazin-9-amine | 350 mg | COC1=CC=C(CNC2=NC(=C(C3=C2N=C2COC[C@@H](N23)C)C)C)C=C1 | C20H24N4O2
